US07705042B2
a) 2-Cyano-oxazole-4-carboxylic acid ethyl ester
To a solution of 2-formyl-oxazole-4-carboxylic acid ethyl ester (Panek et al. J. Org. Chem., 6496, (1996)) (171 mg, 1.11 mmol) in MeOH (3 mL) was added NH2OH (50% wt. H2O, 161 μL, 2.4 mmol). The reaction was allowed to stir for 2 h, and then concentrated in vacuo. The crude oxime was treated with acetic anhydride (4 mL) and heated with stirring at 150° C. for 24 h. The acetic anhydride was removed under vacuo, and the crude material was purified by preparative thin layer chromatography (60% ether-hexanes) to afford 56 mg (31%) of the title compound as an off-white solid. 1H-NMR (CDCl3; 400 MHz): δ 8.40 (s, 1H), 4.46 (q, 2H, J=7.1 Hz), 1.43 (t, 3H, J=7.1 Hz).

reactant | 2-formyl-oxazole-4-carboxylic acid ethyl ester | 1.11 mmol, 171 mg | C(C)OC(=O)C=1N=C(OC1)C=O | C7H7NO4
reactant | NH2OH | 2.4 mmol, 161 μL | NO | H3NO
solvent | MeOH | 3 mL | CO | CH4O
product | 2-Cyano-oxazole-4-carboxylic acid ethyl ester | 56 mg, 31% | C(C)OC(=O)C=1N=C(OC1)C#N | C7H6N2O3
